### PR TITLE
[Merged by Bors] - feat: restricted products and their topology

### PR DESCRIPTION
**Pull request by ADedecker**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 1]
```diff
@@ -0,0 +1,769 @@
...
+/-!
+## Algebraic instances on restricted products
+
+In this section, we endow the restricted product with its algebraic instances.
+To avoid any unnecessary coercions, we use subobject classes for the subset `A i` of each `R i`.
+-/
+
+variable {S S' : ι → Type*} -- subobject types
+variable [Π i, SetLike (S i) (R i)] [Π i, SetLike (S' i) (R' i)]
+variable {A : Π i, S i} {A' : Π i, S' i}
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:204]: You made A have type `(i : ι) → Set (R i)` globally in this file on line 110 so now we have got shadowed `A`s in our local context (and same for A'). This is a neat trick though.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 2]
```diff
@@ -0,0 +1,769 @@
...
+variable {𝓕 : Filter ι}
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:205]:
```suggestion
```
We already have one of these in this namespace.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 3]
```diff
@@ -0,0 +1,769 @@
...
+  isEmbedding_inclusion_top.comp homeoTop.isEmbedding
+
+end general
+
+section cofinite
+/-!
+### Topological facts in the case where `𝓕 = cofinite` and all `A i`s are open
+
+The classical restricted product, associated to the cofinite filter, satisfies more topological
+property when each `A i` is an open subset of `R i`. The key fact is that each
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:479]:
```suggestion
properties when each `A i` is an open subset of `R i`. The key fact is that each
```

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 4]
```diff
@@ -0,0 +1,769 @@
...
+theorem weaklyLocallyCompactSpace_of_cofinite [∀ i, WeaklyLocallyCompactSpace (R i)]
+    (hAcompact : ∀ᶠ i in cofinite, IsCompact (A i)) :
+    WeaklyLocallyCompactSpace (Πʳ i, [R i, A i]) where
+  exists_compact_mem_nhds := fun x ↦ by
+    set S := {i | IsCompact (A i) ∧ x i ∈ A i}
+    have hS : cofinite ≤ 𝓟 S := le_principal_iff.mpr (hAcompact.and x.2)
+    have hSx : ∀ i ∈ S, x i ∈ A i := fun i hi ↦ hi.2
+    have hSA : ∀ i ∈ S, IsCompact (A i) := fun i hi ↦ hi.1
+    haveI := weaklyLocallyCompactSpace_of_principal hS hSA
+    rcases exists_inclusion_eq_of_eventually R A hS hSx with ⟨x', hxx'⟩
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:563]: I thought all the cool kids did `obtain` nowadays (on the basis that it is a word, and `rcases` isn't).

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 5]
```diff
@@ -0,0 +1,769 @@
...
+
+theorem nhds_zero_eq_map_structureMap [Π i, Zero (R i)] [∀ i, ZeroMemClass (S i) (R i)]
+    (hAopen : ∀ i, IsOpen (A i : Set (R i))) :
+    (𝓝 (structureMap R (fun i ↦ A i) cofinite 0)) =
+      map (structureMap R (fun i ↦ A i) cofinite) (𝓝 0) :=
+  nhds_eq_map_structureMap hAopen 0
+
+-- TODO: Make `IsOpen` a class like `IsClosed` ?
+variable [hAopen : Fact (∀ i, IsOpen (A i : Set (R i)))]
+variable [hAopen' : Fact (∀ i, IsOpen (A' i : Set (R' i)))]
```
Comment (kbuzzard) [inline Mathlib/Topology/Algebra/RestrictedProduct.lean:713]: This line is never used. In fact is it the case that there's just one result in the whole 750+-line file which uses R' and A' even though they're initialised globally?

**Review by kbuzzard — APPROVED** [review]
This is an extremely elegant approach! I left a bunch of nits. I think that generally adding TODOs in the middle of files is discouraged -- are you going to do them, or move them to the top of the file, or just leave them as they are (and add to our technical debt)?

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 6]
```diff
@@ -0,0 +1,769 @@
...
+1. If `𝓕` is some principal filter `𝓟 s`, we take the topology induced by the product topology
+on `Π i, R i`.
+2. In general, we note that `𝓕` is the infimum of the principal filters coarser than `𝓕`. We
+then endow `Πʳ i, [R i, A i]_[𝓕]` with the inductive limit / final topology associated to the
+inclusion maps `Πʳ i, [R i, A i]_[𝓟 s] → Πʳ i, [R i, A i]_[𝓕]` where `𝓕 ≤ 𝓟 s`.
+
+In particular:
+* On the classical restricted product, with respect to the cofinite filter, this corresponds to
+taking the inductive limit of the `Πʳ i, [R i, A i]_[𝓟 s]` over all *cofinite* sets `s : Set ι`
+(that is, sets with finite complement).
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:49]: (This is the problem of writing things in the wrong order...)

File: Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:204]: I'll change name to avoid shadowing.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 5 above)
Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:713]: This may be the case. I don't know what the policy is here, I know some people claim that you should always have your data at the section level and only shuffle hypotheses on the lemma level. But I agree this case is a bit extreme, so I'll remove the global `R'` and `A'`.

File: Mathlib/Topology/Algebra/RestrictedProduct.lean [hunk 7]
```diff
@@ -0,0 +1,769 @@
...
+
+variable (𝓕) in
+/-- The *structure map* of the restricted product is the obvious inclusion from `Π i, A i`
+into `Πʳ i, [R i, A i]_[𝓕]`. -/
+def structureMap (x : Π i, A i) : Πʳ i, [R i, A i]_[𝓕] :=
+  ⟨fun i ↦ x i, .of_forall fun i ↦ (x i).2⟩
+
+/-- If `𝓕 ≤ 𝓖`, the restricted product `Πʳ i, [R i, A i]_[𝓖]` is naturally included in
+`Πʳ i, [R i, A i]_[𝓕]`. This is the corresponding map. -/
+def inclusion (h : 𝓕 ≤ 𝓖) (x : Πʳ i, [R i, A i]_[𝓖]) :
```
[the remark this answers is not in the document]
Comment (ADedecker) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:173]: I don't really have an opinion. If you like `comap` better I can go with `comap`.

**Comment by ADedecker** [comment]
Regarding the TODOs: the idea I have in mind when I leave these TODOs in the middle of the code is "I know there should be a cleaner way to do this, and if someone struggles upon it and feels inspired to do it it would be nice for the library". But I certainly don't mean either of "these need to be done in order to move forward" and "this is an ugly workaround, fix as soon as possible".

Do we have anything tracking concretely the technical debt? Because I definitely don't think these count as such. Should I just remove the word "TODO"?

File: Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 7 above)
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:173]: I am happy with `inclusion`

**Comment by kbuzzard** [comment]
Apparently TODOs are fine. Thanks a lot for this very elegant PR!

bors merge

File: Mathlib/Topology/Algebra/RestrictedProduct.lean (hunk 4 above)
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/RestrictedProduct.lean:568]: I agree with the workflow, except that it works just fine with `obtain`

**Comment by ADedecker** [comment]
bors merge
